US04466964
0.1 mole of 2,2,4-trimethyl-1,2,3,4-tetrahydroquinoline is dissolved in 50 ml of ether and the solution is mixed with 0.1 mole of n-dodecyl isocyanate. A spatula tip of diazadicyclooctane is then added, the mixture is left to stand for 7 days at 20° to 25° C. and cooled at -70° C. and the precipitate which has separated out is filtered off. N-n-Dodecylaminocarbonyl-2,2,4-trimethyl-1,2,3,4-tetrahydroquinoline with a melting point of 48°-50° C. is obtained. Yield: 66% of theory.

reactant | 2,2,4-trimethyl-1,2,3,4-tetrahydroquinoline | 0.1 mole | CC1(NC2=CC=CC=C2C(C1)C)C | C12H17N
reactant | n-dodecyl isocyanate | 0.1 mole | C(CCCCCCCCCCC)N=C=O | C13H25NO
solvent | ether | 50 ml | CCOCC | C4H10O
product | N-n-Dodecylaminocarbonyl-2,2,4-trimethyl-1,2,3,4-tetrahydroquinoline | Yield: 66% | C(CCCCCCCCCCC)NC(=O)N1C(CC(C2=CC=CC=C12)C)(C)C | C25H42N2O
